US04703054
An ice-cold solution of ethyl 2,2-dimethyl-5-oxo-1-imidazolidineacetate (2 g) in methanol (150 ml) was saturated with gaseous ammonia). The solution was stirred at room temperature for 36 hours. After evaporation the residue was chromatographed on a silica gel column, eluting with dichloromethane/methanol 6:4. The selected fractions were collected, evaporated and the residue was crystallized from ethanol, to give 2,2-dimethyl-5-oxo-1-imidazolidineacetamide (1 g) as a white powder, m.p. 144°-146°.

reactant | ethyl 2,2-dimethyl-5-oxo-1-imidazolidineacetate | 2 g | CC1(N(C(CN1)=O)CC(=O)OCC)C | C9H16N2O3
reactant | ammonia | N | H3N
solvent | methanol | 150 ml | CO | CH4O
product | 2,2-dimethyl-5-oxo-1-imidazolidineacetamide | 1 g | CC1(N(C(CN1)=O)CC(=O)N)C | C7H13N3O2
